US06174874B1
Step 1 3-Fluoro-N-methoxy-N-methylbenzamide
To a mixture of 3-fluorobenzoyl chloride (11.0 g, 6.70 mmol) and N,O-dimethylhydroxylamine.HCl in CHCl3 (70 mL) at 0° C. was added pyridine (14 mL) over 30 min. After a period of 3 h at room temperature, the reaction mixture was treated in the usual manner to give 12.5 g of the title compound.

reactant | 3-fluorobenzoyl chloride | 6.70 mmol, 11.0 g | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | N,O-dimethylhydroxylamine | CNOC | C2H7NO
reactant | HCl | Cl | ClH
reactant | pyridine | 14 mL | N1=CC=CC=C1 | C5H5N
solvent | CHCl3 | 70 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Fluoro-N-methoxy-N-methylbenzamide | 12.5 g | FC=1C=C(C(=O)N(C)OC)C=CC1 | C9H10FNO2
